US04605652
4-Amino-N-(1-azabicyclo[2.2.2]oct-3-yl)benzamide Hydrochloride
A solution of N-(1-azabicyclo[2.2.2]oct-3-yl)-4-nitrobenzamide hydrochloride (11.55 g., 0.037 mole) in 170 ml of 80% aqueous methanol was shaken in a hydrogen atmosphere with a platinum oxide catalyst on the Parr hydrogenator. The calculated volume of hydrogen was taken up in one hour. The catalyst was filtered off through Celite and the filtrate taken to dryness via rotary evaporator. Several recrystallizations of the colorless crystalline residue from 70% aqueous methanol produced a solid melting above 310° C. NMR, MS, and IR supported the proposed structure. Yield of title compound was 8.43 g. (81.2%).

reactant | N-(1-azabicyclo[2.2.2]oct-3-yl)-4-nitrobenzamide hydrochloride | 0.037 mole, 11.55 g | Cl.N12CC(C(CC1)CC2)NC(C2=CC=C(C=C2)[N+](=O)[O-])=O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 170 ml | CO | CH4O
catalyst | platinum oxide | [Pt]=O
product | 4-Amino-N-(1-azabicyclo[2.2.2]oct-3-yl)benzamide Hydrochloride | Cl.NC1=CC=C(C(=O)NC2CN3CCC2CC3)C=C1 | InChI=1S/C14H19N3O.ClH/c15-12-3-1-11(2-4-12)14(18)16-13-9-17-7-5-10(13)6-8-17;/h1-4,10,13H,5-9,15H2,(H,16,18);1H
